US07700609B2
3-(8-Phenyl-thieno[2,3-h]quinazolin-2-ylamino)-benzenesulfonamide
To a dark solution of 3-(8-Phenyl-5,6-dihydro-thieno[2,3-h]quinazolin-2-ylamino)-benzenesulfonamide (130 mg, 0.30 mmol) in anhydrous 1,4-dioxane (7 mL) was added DDQ (75 mg, 0.33 mmol) and the mixture was refluxed under nitrogen for 2-3 hours. The reaction mixture was concentrated in vacuo and the resulting crude residue was triturated in a mixture of 2M NaOH (25 mL) and DCM (25 mL). The resulting solid was filtered and washed with DCM and water to afford 50 mg (39% yield) of the title compound as a pale yellow/green powder. MS (ES+) 433, (ES−) 431. δH (d6 DMSO) 7.39 (2H, br s), 7.41 (1H, m), 7.51 (4H, br m), 7.72 (1H, d), 7.83 (1H, d), 7.96 (3H, m), 8.68 (1H, s), 9.40 (1H, s), 9.61 (1H, br s) and 10.41 (1H, s).

reactant | 3-(8-Phenyl-5,6-dihydro-thieno[2,3-h]quinazolin-2-ylamino)-benzenesulfonamide | 0.30 mmol, 130 mg | C1(=CC=CC=C1)C1=CC2=C(CCC=3C=NC(=NC23)NC=2C=C(C=CC2)S(=O)(=O)N)S1 | C22H18N4O2S2
reactant | DDQ | 0.33 mmol, 75 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | 3-(8-Phenyl-thieno[2,3-h]quinazolin-2-ylamino)-benzenesulfonamide | 50 mg, 39% yield | C1(=CC=CC=C1)C1=CC=2C(=CC=C3C=NC(=NC23)NC=2C=C(C=CC2)S(=O)(=O)N)S1 | C22H16N4O2S2
